US06150373
A solution of 3.2 g (14.7 mmol) of 2-ethyl-2-(3-nitro-phenyl)-butyronitrile in 50 ml of ethanol was treated with 350 mg of water-wet Raney nickel and the mixture heated to 60° C. 10 ml of hydrazine hydrate was added dropwise over 20 minutes and the reaction stirred for a further 1 hour at 60° C. The cooled mixture was filtered through hyflo filter aid and evaporated to give 2.5 g (90%) of 2-(3-amino-phenyl)-2-ethyl-butyronitrile as an orange oil. [Mass spectrum (ESI) MH+ =189].

reactant | 2-ethyl-2-(3-nitro-phenyl)-butyronitrile | 14.7 mmol, 3.2 g | C(C)C(C#N)(CC)C1=CC(=CC=C1)[N+](=O)[O-] | C12H14N2O2
reactant | water | 350 mg | O | H2O
reactant | hydrazine hydrate | 10 ml | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(3-amino-phenyl)-2-ethyl-butyronitrile | 2.5 g, 90% | NC=1C=C(C=CC1)C(C#N)(CC)CC | C12H16N2
